US08865704B2
trans-4-({2-[2-(Carboxy-methyl-amino)-phenyl]-acetylamino}-methyl)-cyclohexanecarboxylic acid
LiOH (1.3 mmol, 0.03 g) was added to a solution of trans-4-(1-Methyl-2,4-dioxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexane carboxylic acid methyl ester (0.84 mmol, 0.29 g) in dioxane (3 mL) and water (3 mL) at 0° C. The mixture was stirred at 0° C. for 2 h. The reaction mixture was washed with DCM, then HCl (1N) was added until reached pH 1, then extract with DCM (3×10 mL) and AcOEt (3×10 mL). The organic layers were washed with brine (2×10 mL) dried over Na2SO4 collected together and concentrated under reduced pressure to give the title compound in quantitative yield (0.29 g).

reactant | LiOH | 1.3 mmol, 0.03 g | [Li+].[OH-]
reactant | trans-4-(1-Methyl-2,4-dioxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexane carboxylic acid methyl ester | 0.84 mmol, 0.29 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C(CC1=O)C=CC=C2)C)=O | C19H24N2O4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | trans-4-({2-[2-(Carboxy-methyl-amino)-phenyl]-acetylamino}-methyl)-cyclohexanecarboxylic acid | quantitative yield | C(=O)(O)N(C1=C(C=CC=C1)CC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)C | C18H24N2O5
